US08669234B2
To a solution of [2-methyl-1-(7-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-oxa-6-azaspiro[3.4]octane-6-carbonyl)-propyl]-carbamic acid methyl ester (81 mg, 0.15 mmol), (1-{7-[5-(4-bromophenyl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (60 mg, 0.12 mmol) and tetrakis(triphenylphosphine)palladium(0) (14 mg, 0.012 mmol) in 1,2-dimethoxyethane (2.0 mL) was added a solution of potassium carbonate (2M in water, 0.250 mL, 0.50 mmol). The resulting mixture was degassed for 15 minutes with a stream of argon and then heated to 85° C. for 3 hours. After cooling to room temperature, the reaction was filtered through a palladium scavenging column (STRATOSPHERES™ PL-Guanidine MP SPE+, Part #: PL3514-CM89) and the solids were rinsed with methanol. The filtrate was concentrated and purified by preparative reverse phase HPLC (Gemini, 15 to 51% ACN/H2O+0.1% HCO2H) to yield (1-{7-[5-(4′-{2-[6-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]oct-7-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (26 mg, 26%). LCMS-ESI+: calculated for C44H54N8O8: 822.41; observed [M+1]+: 823.43. 1H-NMR: 400 MHz, (CD3OD) δ: 7.78-7.75 (m, 4H), 7.68-7.65 (m, 4H), 7.38 (s, 2H), 6.94-6.89 (br, 2H), 5.47-5.42 (m, 2H), 4.74-4.68 (br, 2H), 3.66 (s, 6H), 3.00-2.94 (m, 2H), 2.78-2.71 (m, 2H), 2.61-2.53 (m, 2H), 2.49-2.40 (m, 2H), 2.38-2.30 (m, 2H), 2.22-2.09 (m, 4H), 2.00-1.90 (m, 2H), 1.84-1.75 (m, 2H), 0.98 (d, J=6.8 Hz, 6H), 0.88 (d, J=6.7 Hz, 6H) ppm.

reactant | [2-methyl-1-(7-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-oxa-6-azaspiro[3.4]octane-6-carbonyl)-propyl]-carbamic acid methyl ester | 0.15 mmol, 81 mg | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C28H39BN4O6
reactant | (1-{7-[5-(4-bromophenyl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.12 mmol, 60 mg | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C22H27BrN4O4
reactant | potassium carbonate | 0.50 mmol, 2M, 0.250 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 2.0 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1-{7-[5-(4′-{2-[6-(2-Methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]oct-7-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 26 mg, 26% | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(OC2(CCC2)C1)C(C(C(C)C)NC(=O)OC)=O)=O | C44H54N8O8
